US05409943
(b) N-[3-(4-Chlorobenzyloxy)pyrid-2-yl]-N'-phenylthiourea
A mixture of 2-amino-3-(4-chlorobenzyloxy)pyridine (3.37 g, 0,014 mol), phenyl isothiocyanate (2.33 g, 0,017 mol) and toluene (10 ml) was refluxed for 3.5 hours, then cooled and treated with diethyl ether to induce crystallisation of the product. Yield 4.36 g (82%), m.p. 162°-164 ° C.

reactant | 2-amino-3-(4-chlorobenzyloxy)pyridine | 0,014 mol, 3.37 g | NC1=NC=CC=C1OCC1=CC=C(C=C1)Cl | C12H11ClN2O
reactant | phenyl isothiocyanate | 0,017 mol, 2.33 g | C1(=CC=CC=C1)N=C=S | C7H5NS
reactant | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | diethyl ether | C(C)OCC | C4H10O
product | N-[3-(4-Chlorobenzyloxy)pyrid-2-yl]-N'-phenylthiourea | ClC1=CC=C(COC=2C(=NC=CC2)NC(=S)NC2=CC=CC=C2)C=C1 | C19H16ClN3OS
